US06667316B1
A mixture of (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]carboxamide (0.98 g, 2.89 mmol) and 4Nhydrochloric acid/dioxane (3 mL) in methylene chloride (10 mL) was stirred at room temperature for 16 hours. The resulting slurry was filtered and washed with ethyl acetate to give 4-amino-4-(3-ethoxy-4-methoxyphenyl)butan-2-ol hydrochloride as a white solid (0.68 g, 85%); 1H NMR (D2O) δ7.12 (m, 3H), 4.47 (t, J=7.0 Hz, 1H), 4.20 (q, J=7.4 Hz, 2H), 3.90 (s, 3H), 3.83-3.76 (m, 1H), 2.21-2.15 (m, 2H), 1.43 (t, J=6.9 Hz, 3H), 1.24 (d, J=6.1 Hz, 3H); 13C NMR (D2O) δ151.75, 150.48, 131.92, 123.09, 115.05, 114.54, 67.86, 66.98, 58.53, 55.35, 44.41, 24.49, 16.68.

reactant | (tert-butoxy)-N-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]carboxamide | 2.89 mmol, 0.98 g | C(C)(C)(C)OC(=O)NC(CC(C)O)C1=CC(=C(C=C1)OC)OCC | C18H29NO5
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-4-(3-ethoxy-4-methoxyphenyl)butan-2-ol hydrochloride | 0.68 g, 85% | Cl.NC(CC(C)O)C1=CC(=C(C=C1)OC)OCC | InChI=1S/C13H21NO3.ClH/c1-4-17-13-8-10(5-6-12(13)16-3)11(14)7-9(2)15;/h5-6,8-9,11,15H,4,7,14H2,1-3H3;1H
